US09079866B2
1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-ol
The title compound was prepared in a manner similar to that described in Example 448 using 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine and 1-((2-bromophenyl)sulfonyl)piperidin-4-ol. MS (ESI): mass calcd. for C21H21FN4O3S, 428.13; m/z found, 429.1 [M+H]+. 1H NMR (400 MHz, CD3OD) δ 8.36-8.31 (m, 2H), 8.10-8.06 (m, 1H), 7.99 (m, 1H), 7.73-7.67 (m, 1H), 7.64-7.58 (m, 1H), 7.44-7.40 (m, 1H), 7.34-7.28 (m, 2H), 3.66-3.55 (m, 1H), 3.20-3.08 (m, 2H), 2.71-2.61 (m, 2H), 1.72-1.63 (m, 2H), 1.39-1.26 (m, 2H).

reactant | 5-(2-fluoro-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-pyrazin-2-amine | FC1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)C=1N=CC(=NC1)N | C16H19BFN3O2
reactant | 1-((2-bromophenyl)sulfonyl)piperidin-4-ol | BrC1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)O | C11H14BrNO3S
product | 1-{[4′-(5-Aminopyrazin-2-yl)-3′-fluorobiphenyl-2-yl]sulfonyl}piperidin-4-ol | NC=1N=CC(=NC1)C1=C(C=C(C=C1)C1=C(C=CC=C1)S(=O)(=O)N1CCC(CC1)O)F | C21H21FN4O3S
